US07320979B2
15.1 1-Allyl-4-(6-nitropyridin-3-yl)piperazine
315 mg (2.5 mmol) of N-allylpiperazine were dissolved in 5 ml of toluene under an argon atmosphere. 93 mg (0.1 mmol) of tris-(dibenzylideneacetone)-dipalladium(0) (Pd2dba3), 126 mg (0.2 mmol) of 2,2′-bis-(diphenylphosphino)-1,1′-binaphthy I (BINAP), 1.14 g (3.5 mmol) of cesium carbonate and 515 mg (2.54 mmol) of 5-bromo-2-nitropyridine were then added and the mixture was stirred at 120° C., in a microwave oven, for 4 hours. After the reaction mixture had cooled down to room temperature, a saturated aqueous solution of ammonium chloride was added. After that, the aqueous reaction mixture was extracted three times with in each case 50 ml of ethyl acetate. After the organic phase had been dried over sodium sulfate, the drying agent had been filtered off and the solvent had been evaporated down to dryness, the residue was chromatographed through silica gel using ethyl acetate/methanol (4:1), with 304 mg (46% of theory) of the title compound being obtained.

reactant | N-allylpiperazine | 2.5 mmol, 315 mg | C(C=C)N1CCNCC1 | C7H14N2
reactant | 2,2′-bis-(diphenylphosphino)-1,1′-binaphthy I | 0.2 mmol, 126 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 3.5 mmol, 1.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-2-nitropyridine | 2.54 mmol, 515 mg | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Allyl-4-(6-nitropyridin-3-yl)piperazine | C(C=C)N1CCN(CC1)C=1C=NC(=CC1)[N+](=O)[O-] | C12H16N4O2
